US08420695B2
Step 2. 5-Bromo-2-nitrothiophene-3-carbaldehyde
5-Bromo-3-(dichloromethyl)-2-nitrothiophene (60.5 g, 208 mmol) and zinc chloride (113 g, 832 mmol) were stirred in refluxing formic acid (800 mL) overnight. After cooling to ambient temperature, water was added and the mixture was extracted with EtOAc (4×). The combined organic extracts were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to give the title compound as an orange solid.

reactant | 5-Bromo-3-(dichloromethyl)-2-nitrothiophene | 208 mmol, 60.5 g | BrC1=CC(=C(S1)[N+](=O)[O-])C(Cl)Cl | C5H2BrCl2NO2S
reactant | formic acid | 800 mL | C(=O)O | CH2O2
catalyst | zinc chloride | 832 mmol, 113 g | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 5-Bromo-2-nitrothiophene-3-carbaldehyde | BrC1=CC(=C(S1)[N+](=O)[O-])C=O | C5H2BrNO3S
